US06348474B1
Ethyl 5-methylsalicylate
To a solution of 5-methyl salicylic acid (9.90 g) in ethanol (100 ml) was added concentrated sulfuric acid (1.0 g) and the mixture was refluxed under heating for 21 hr. The reaction mixture was concentrated to give an oil mainly containing the objective compound.

reactant | 5-methyl salicylic acid | 9.90 g | CC1=CC=C(C(C(=O)O)=C1)O | C8H8O3
reactant | sulfuric acid | 1.0 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 5-methylsalicylate | CC1=CC=C(C(C(=O)OCC)=C1)O | C10H12O3
